US03996232
To 11 g (0.055 mole) of p-N,N-dimethylsulfamylaniline is added 17.68 ml (0.055) of 3.1 N hydrochloric acid. This is heated on a steam bath with 15 ml of isopropanol and 6.94 g (0.055 mole) of 1-i-propyl-3-cyanoguanidine. The reaction mixture is heated for 18 hours. The alcohol is evaporated off and diluted with 250 ml of 7.4% hydrochloric acid. The mixture is filtered, cooled and made alkaline with 10% sodium hydroxide. The precipitate is filtered, triturated with 100 ml of boiling isopropanol and filtered to get 1-(p-N,N-dimethylsulfamylphenyl)-5-i-propylbiguanide.

reactant | p-N,N-dimethylsulfamylaniline | 0.055 mole, 11 g | CN(S(=O)(=O)C1=CC=C(N)C=C1)C | C8H12N2O2S
reactant | hydrochloric acid | 3.1 N, 17.68 ml | Cl | ClH
reactant | 1-i-propyl-3-cyanoguanidine | 0.055 mole, 6.94 g | C(C)(C)NC(=N)NC#N | C5H10N4
solvent | isopropanol | 15 ml | C(C)(C)O | C3H8O
product | 1-(p-N,N-dimethylsulfamylphenyl)-5-i-propylbiguanide | CN(S(=O)(=O)C1=CC=C(C=C1)NC(=N)NC(=N)NC(C)C)C | C13H22N6O2S
